US09212190B2
To a solution of 3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]-2-[(trimethylsilyl)oxy]propanenitrile (240 mg, 0.68 mmol, 1.00 equiv) in methanol (5 mL) was added 1 mL of concentrated hydrochloric acid at 0° C. After stirring for 1 h at room temperature, the pH value of the solution was adjusted to 10 with saturated aqueous sodium bicarbonate, diluted with DCM, washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 170 mg (89%) of 3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]-2-hydroxypropanenitrile as a white solid. MS: m/z 280 (M+H)+.

reactant | 3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]-2-[(trimethylsilyl)oxy]propanenitrile | 0.68 mmol, 240 mg, 1.00 equiv | ClC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(C#N)O[Si](C)(C)C | C15H18ClN3OSSi
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[(3R)-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]-2-hydroxypropanenitrile | 170 mg, 89% | ClC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(C#N)O | C12H10ClN3OS
